US05446121
A solution of lithium aluminum hydride (1.9 L, 1M in THF) was cooled to -30° C. and 2'-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-carboxylic acidmethyl ester (0.848 kg, 2.13 mol), prepared as in Example 3, in 3.5 L of THF was added at a rate such that the reaction temperature remained below -10° C. The mixture was allowed to warm to 0° C. and 77 mL of water, 77 mL of 15% sodium hydroxide and 230 mL of water were sequentially added. The mixture was filtered and the filter cake washed with 3×500 mL of THF. The filtrate was concentrated, then 4 L of hexanes were added and a crystalline product was obtained. The product wasisolated by filtration and the filter cake was washed with hexanes. Drying gave 2'-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-methanol (0.788 kg, 2.12 mol), m.p. 117°-120° C.

reactant | lithium aluminum hydride | 1M, 1.9 L | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2'-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-carboxylic acidmethyl ester | 2.13 mol, 0.848 kg | COC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C)(C1=CC=CC=C1)C | C24H22N4O2
reactant | water | 77 mL | O | H2O
reactant | sodium hydroxide | 77 mL | [OH-].[Na+]
reactant | water | 230 mL | O | H2O
solvent | THF | 3.5 L | C1CCOC1 | C4H8O
product | 2'-[2-(1-methyl-1-phenylethyl)-2H-tetrazol-5-yl]biphenyl-4-methanol | 2.12 mol, 0.788 kg | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO | C23H22N4O
